US06573260B1
Ethyl 4-(S)-benzyloxycarbonylamino-4-cyclopropyl-3-nitromethylbutanoate
Ethyl 4-(S)-benzyloxycarbonylamino-4-cyclopropyl-2-butenoate was dissolved in dry nitromethane (15 ml), and the solution was mixed with 1,1,3,3-tetramethylguanidine (133 μl, 1.05 mol) and stirred at room temperature for 17 hours. The reaction solution was concentrated under a reduced pressure, the resulting residue was dissolved in chloroform (50 ml), and the solution was washed with 10% citric acid aqueous solution (50 ml) and saturated sodium chloride aqueous solution (50 ml) in that order, and then dried over anhydrous magnesium sulfate, thereby obtaining 1.207 g (96.1%) of the title compound as a yellow oil. This product (diastereomer mixture) was used in the subsequent reaction without purification.

reactant | Ethyl 4-(S)-benzyloxycarbonylamino-4-cyclopropyl-2-butenoate | C(C1=CC=CC=C1)OC(=O)N[C@H](C=CC(=O)OCC)C1CC1 | C17H21NO4
reactant | 1,1,3,3-tetramethylguanidine | 1.05 mol, 133 μl | CN(C(=N)N(C)C)C | C5H13N3
reactant | nitromethane | 15 ml | [N+](=O)([O-])C | CH3NO2
product | Ethyl 4-(S)-benzyloxycarbonylamino-4-cyclopropyl-3-nitromethylbutanoate | 1.207 g, 96.1% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(CC(=O)OCC)C[N+](=O)[O-])C1CC1 | C18H24N2O6
